US07935702B2
10. 1-(5-Bromo-3-(trifluoromethyl)pyridin-2-yl)ethanol
Dissolve 1-(3-(trifluoromethyl)pyridin-2-yl)ethanol (8.8 g, 0.046 moles) in anhydrous MeOH (80 mL) and add bromine (2.35 mL) dropwise at room temperature. Reflux the mixture under N2 atmosphere for 3 weeks with the addition of bromine (1.0 mL) on each day. Concentrate the reaction mixture under vacuum, dilute with water (100 mL), neutralize with NaHCO3, extract with EtOAc (3×100 mL) and dry (MgSO4). Filter the dried extract and concentrate under vacuum to afford a yellow oil. Purify the crude product by column chromatography to afford the title compound as a pale yellow oil.

reactant | 1-(3-(trifluoromethyl)pyridin-2-yl)ethanol | 0.046 moles, 8.8 g | FC(C=1C(=NC=CC1)C(C)O)(F)F | C8H8F3NO
reactant | bromine | 2.35 mL | BrBr | Br2
reactant | bromine | 1.0 mL | BrBr | Br2
solvent | MeOH | 80 mL | CO | CH4O
product | 1-(5-Bromo-3-(trifluoromethyl)pyridin-2-yl)ethanol | BrC=1C=C(C(=NC1)C(C)O)C(F)(F)F | C8H7BrF3NO
